US04242510
Ethyl 2-(2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetate (syn isomer, 5.8 g.) was added to a mixture of acetic anhydride (7.7 g.) and formic acid (3.48 g.), which was warmed at 50° C. for 2 hours previously, under ice-cooling, and stirred at room temperature overnight. After adding chilled water (100 ml.) to the resultant solution, the solution was extracted with ethyl acetate three times. The extract was washed with a saturated aqueous solution of sodium chloride once, an aqueous solution of sodium bicarbonate four times and a saturated aqueous solution of sodium chloride once in turn, and dried over magnesium sulfate. The solution was concentrated in vacuo, and the residue was triturated with diisopropyl ether (15 ml.). The crystals were collected by filtration and washed with diisopropyl ether to give ethyl 2-(4-formyl-2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetate (syn isomer, 5.0 g.), mp. ν maxNujol :1735, 1725, 1675 cm-1

reactant | Ethyl 2-(2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetate | 5.8 g | S1CCNC(=C1)C(C(=O)OCC)=NOC | C9H14N2O3S
reactant | acetic anhydride | 7.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 3.48 g | C(=O)O | CH2O2
solvent | water | 100 ml | O | H2O
product | ethyl 2-(4-formyl-2,3-dihydro-4H-1,4-thiazin-5-yl)-2-methoxyiminoacetate | 5.0 g | C(=O)N1CCSC=C1C(C(=O)OCC)=NOC | C10H14N2O4S
